US03933472
3'-Chloro-4'-(N-methylcarbamoyloxy)-5'-nitroacetophenone
A mixture of 21.5 grams (0.1 mole) 3'-chloro-4'-hydroxy-5'-nitroacetophenone and 85.0 milliliters (a large excess) of methylisocyanate was refluxed for 5 hours. On cooling, a white crystalline product was formed. The product was filtered (weight 18.0 grams, melting point 115°-118° C.) and was identified by characteristic peaks in the infrared spectrum as 3'-chloro-4'-(N-methylcarbamoyloxy)-5'-nitroacetophenone.

reactant | 3'-chloro-4'-hydroxy-5'-nitroacetophenone | 0.1 mole, 21.5 grams | ClC=1C=C(C=C(C1O)[N+](=O)[O-])C(C)=O | C8H6ClNO4
reactant | methylisocyanate | CN=C=O | C2H3NO
product | 3'-Chloro-4'-(N-methylcarbamoyloxy)-5'-nitroacetophenone | ClC=1C=C(C=C(C1OC(NC)=O)[N+](=O)[O-])C(C)=O | C10H9ClN2O5
